US04866065
a. Ethyl 4-methyl-2-(N'-methylureido)thiophene-3-carboxylate
To a stirred ice-cooled solution of ethyl 2-amino-4-methyl-thiophene-3-carboxylate (1,85 g, 10 mmole) and triethyl amine (1,4 ml, 10 mmol) in dry tetrahydrofuran (50 ml) was added dropwise a phosgene solution (11 mmol, in toluene). The mixture was thereafter heated to reflux for 30 min, then cooled to room temperature and exposed to a gaseous stream of methylamine for 5 min. After additional stirring for 15 min, the mixture was filtered and the filtrate was evaporated to give the title compound as white crystals.

reactant | ethyl 2-amino-4-methyl-thiophene-3-carboxylate | 10 mmole, 1,85 g | NC=1SC=C(C1C(=O)OCC)C | C8H11NO2S
reactant | triethyl amine | 10 mmol, 1,4 ml | C(C)N(CC)CC | C6H15N
reactant | phosgene | 11 mmol | C(=O)(Cl)Cl | CCl2O
reactant | methylamine | CN | CH5N
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | Ethyl 4-methyl-2-(N'-methylureido)thiophene-3-carboxylate | CC=1C(=C(SC1)NC(=O)NC)C(=O)OCC | C10H14N2O3S
